US07572820B2
E. 4-Chloro-2-(difluoromethyl)-1-(phenylsulfonyl)-1H-indol-5-ol
To a solution of 4-chloro-2-(difluoromethyl)-5-[(phenylmethyl)oxy]-1-(phenylsulfonyl)-1H-indole (2.6 g, 5.82 mmol) in anhydrous CH2Cl2 (80 mL), under N2, at −78° C., was slowly added a solution of BBr3 in CH2Cl2 (1M, 6.1 mL). After stirring at −78° C. for 30 min, additional BBr3 solution (1M, 0.3 mL) was added and stirring was continued at −78° C. for 30 min. While at −78° C., sat'd aqueous NaHCO3 solution (˜10 mL) was added slowly, the cold bath was then removed and the reaction mixture brought to rt. The mixture was partitioned between CH2Cl2 and sat'd NaHCO3 solution. The aqueous phase was washed with CH2Cl2. The combined organic phases were washed with sat'd brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (0-40% EtOAc-hexanes gradient) to afford the title compound (1.87 g, 89% yield): 1H NMR (400 MHz, CDCl3) δ 7.93 (d, J=9.0 Hz, 1H), 7.89 (d, J=7.6 Hz, 2H), 7.58 (t, J=7.6 Hz, 1H), 7.46 (t, J=7.6 Hz, 2H), 7.32 (t, J=54.2 Hz, 1H), 7.12-7.08 (m, 2H), 5.42 (bs, 1H); MS (ES) m/z 356 (M−1).

reactant | 4-chloro-2-(difluoromethyl)-5-[(phenylmethyl)oxy]-1-(phenylsulfonyl)-1H-indole | 5.82 mmol, 2.6 g | ClC1=C2C=C(N(C2=CC=C1OCC1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)C(F)F | C22H16ClF2NO3S
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | BBr3 | 1M, 0.3 mL | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | ˜10 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1M, 6.1 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-2-(difluoromethyl)-1-(phenylsulfonyl)-1H-indol-5-ol | 1.87 g, 89% yield | ClC1=C2C=C(N(C2=CC=C1O)S(=O)(=O)C1=CC=CC=C1)C(F)F | C15H10ClF2NO3S
